US08486939B2
A stirred mixture of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (0.183 g, 0.5 mmol) and 4-aminomethylpyridine (0.135 g, 1.25 mmol) in 10 mL dioxane was heated under gentle reflux for 5 min, before being cooled and diluted with water. The mixture was extracted with CH2Cl2 and the organic layer was dried with Na2SO4. Chromatography on alumina, eluting with CH2Cl2/EtOAc (9:1), followed by chromatography on silica, eluting with CH2Cl2/EtOAc (3:2) gave 56 mg (26% yield) of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(4-pyridinylmethyl)-1,3,5-triazin-2-amine: mp 188-190° C.; 1H NMR (CDCl3) (rotamers) δ8.60 (br s, 2H), 8.42 and 8.13 (2d, J=7.4 and 8.0 Hz, 1H), 7.88 (m, 1H), 7.64 (t, JHF=53.6 Hz, 1H), 7.44-7.25 (m, 4H), 5.78 and 5.71 (2 m, exchangeable with D2O, 1H), 4.74 and 4.70 (2 d, J=6.0 and 6.0 Hz, 2H), 3.92-3.69 (m, 8H).

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.5 mmol, 0.183 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | 4-aminomethylpyridine | 1.25 mmol, 0.135 g | NCC1=CC=NC=C1 | C6H8N2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(4-pyridinylmethyl)-1,3,5-triazin-2-amine | 56 mg, 26% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NCC1=CC=NC=C1)C=CC=C2)F | C21H20F2N8O
